.SUBCKT TL072 OUT1 IN1- IN1+ VEE IN2- IN2+ OUT2 VCC
.include TL071.lib
X1 IN1+ IN1- VCC VEE OUT1 LMX24_LM2902
X2 IN2+ IN2- VCC VEE OUT2 LMX24_LM2902
.ENDS TL072
