* C:\users\ostoja\Desktop\Elektronika\PEKG\simulations\mains_bandstop.asc
V2 5V 0 5
V7 N003 2.5V AC 1
R14 N002 N011 20k
XU7 N014 N002 5V 0 N011 LT1006
R18 2.5V N014 10k
R16 N001 N002 20k
R20 N010 N002 20k
V1 2.5V 0 2.5
C2 N004 N003 {C_small_top}
R2 2.5V N005 {R_big}
C3 N005 N004 {C_big_top}
R3 2.5V N004 {R_small}
XU3 N013 N010 5V 0 N010 TL072
XU4 N005 N001 5V 0 N001 TL072
R1 N003 N012 {R_small}
R4 N012 N013 {R_big}
C4 0 N012 {C_small_bottom}
C1 0 N013 {C_big_bottom}
XU1 2.5V N009 5V 0 N006 TL072
R5 N007 N008 1Meg
V3 N007 2.5V AC 1
R6 N008 N009 1Meg
R7 N006 N016 1Meg
R8 N006 N016 1Meg
C9 N007 N015 6.35n
R9 N009 N006 1Meg
C6 N015 N016 6.35n
C7 N016 N017 6.35n
C8 N017 N009 6.35n
C5 N008 N006 6.35n
;tran 0 20m 0 0.5u
.ac dec 100 1 1k
.param f_bottom = 40
.param f_top = 70
.param R_big = 470k
.param R_small = 10k
.param C_big_top = 1 / 2 / pi / R_big / f_top
.param C_small_top = 1 / 2 / pi / R_small / f_top
.param C_big_bottom = 1 / 2 / pi / R_big / f_bottom
.param C_small_bottom = 1 / 2 / pi / R_small / f_bottom
.lib LTC.lib
.lib TL072.cir
.backanno
.end
